US07342118B2
3-{4-[2-(2-Hydroxy-3,3-dimethyl-butyrylamino)-propionylamino]-imidazol-1-yl}-3-methyl-butyric acid methyl ester
3-[4-(2-Amino-propionylamino)-imidazol-1-yl]-3-methyl-butyric acid methyl ester was coupled with (S)-2-hydroxy-3,3-dimethyl-butyric acid to provide the title compound: C13 NMR (100 MHz, CDCl3) 19.2, 26.2, 28.1, 28.2, 35.2, 47.1, 48.6, 51.9, 56.4, 79.7, 105.1, 112.4, 131.0, 137.7, 169.7, 170.0, 173.0; MS 383.3 m/z (M+1).

reactant | 3-[4-(2-Amino-propionylamino)-imidazol-1-yl]-3-methyl-butyric acid methyl ester | COC(CC(C)(C)N1C=NC(=C1)NC(C(C)N)=O)=O | C12H20N4O3
reactant | (S)-2-hydroxy-3,3-dimethyl-butyric acid | O[C@H](C(=O)O)C(C)(C)C | C6H12O3
product | 3-{4-[2-(2-Hydroxy-3,3-dimethyl-butyrylamino)-propionylamino]-imidazol-1-yl}-3-methyl-butyric acid methyl ester | COC(CC(C)(C)N1C=NC(=C1)NC(C(C)NC(C(C(C)(C)C)O)=O)=O)=O | C18H30N4O5
